US07625894B2
Step 2: [4-(4-Dimethylamino-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-phenyl]-methanol
Li[AlH4] (660 mg, 17.40 mmol) is suspended in THF (70 mL). The suspension is cooled in an ice bath and small portions of 4-(4-Dimethylamino-7H-pyrrolo[2,3-d]pyrimidin-6-yl-benzoic acid ethylester are added under an argon atmosphere. The reaction is stirred for 30 min. at room temperature and then heated to 50° C. for additional 30 min. It is then cooled to room temperature again and quenched by careful addition of dilute aqueous NaOH solution. The resulting suspension is stirred for 30 min. and then all inorganic salts are removed by filtration. The remainig solution is concentrated in vacuo to give a yellow solid which is titurated with hexanes. The product is isolated by filtration and dried in vacuo to give a white powder. C15H16N4O: M+H=269.1; 1H-NMR (400 MHz, DMSO-d6): 13.01 (s, 1H, NH), 8.23 (s, 1H), 7.89 (d, 2H), 7.39 (d, 2H), 7.19 (s, 1H), 5.21 (s, 1H, OH), 4.55 (d, 2H), 3.35 (s, 6H). m. p.=306-309° C. Rf (ethyl acetate/MeOH 9:1)=0.30.

reactant | Li[AlH4] | 17.40 mmol, 660 mg | [Li+].[AlH4-]
reactant | 4-Dimethylamino-7H-pyrrolo[2,3-d]pyrimidin-6-yl-benzoic acid ethylester | C(C)OC(C1=C(C=CC=C1)C1=CC2=C(N=CN=C2N(C)C)N1)=O | C17H18N4O2
reactant | ethyl acetate MeOH | C(C)(=O)OCC.CO
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | [4-(4-Dimethylamino-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-phenyl]-methanol | CN(C=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CO)C | C15H16N4O
